.SUBCKT LT1368     1 2 3 4 5
GRP1 1 111 1 111 1.0000e-001
GRP2 2 112 2 112 1.0000e-001
DIP1 114 111 DX
DIP2 114 112 DX
VCM 114 4 DC 4.9000e-001
CIN 111 112 1.2000e-011
GRIN 111 112 111 112 1.0000e-012
Q1 11 112 13 Q1
Q2 12 113 14 Q2
RC1 303 11 1.0599e+003
RC2 303 12 1.0599e+003
RE1 10 13 7.2602e+001
RE2 10 14 7.2602e+001
C1 11 12 9.3854e-012
IEE 10 304 DC 1.8871e-003
D1 304 10 DX
VCMEP 303 3 DC 1.0
VCMEN 4 304 DC 0.5
GA 60 99 11 12 9.4352e-004
FRI1 99 1 VRI1 1
VRI1 101 0 DC 0
RRI1 101 0 9.4870e+006
FRI2 99 2 VRI2 1
VRI2 201 0 DC 0
RRI2 201 0 9.4870e+006
GR 99 60 605 606 1.3987e+001
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
GCM1 99 20 POLY(2) 111 99 112 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 1.5915e+000
ECM 113 111 20 99 3.1623e-005
RP1 601 99 4.0000e+003
CP1 60 601 5.6841e-010
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 611 99 1.2500e+004
LP2 61 611 1.6579e-002
RP22 61 99 5.0000e+004
GP2 99 6 61 99 1.0000e-004
R2 6 99 1.0000e+003
C2 6 7 9.7276e-009
GB 7 99 6 99 5.3277e+003
R01 7 99 3.7451e+001
R02 7 50 1.0000e-001
R03 50 5 3.2449e+001
R04 5 99 1.0000e+012
VC 53 50 DC 1.0976e+000
VE 54 50 DC -1.0987e+000
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 3.3333e+002
ECLN 92 0 7 50 3.3333e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 1.9891e+002
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC -1.5121e-003
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 10.0
EGV 31 32 POLY(1) 3 4 -0.85 1.0
.MODEL DX D IS=8.0000e-016 RS=0 XTI=0
.MODEL Q1 NPN IS=9.9665e-016 BF=88709.6 XTB=-3.0485e+000 XTI=2.99176e+000 KF=1.5522e-017
.MODEL Q2 NPN IS=1.0034e-015 BF=98601.5 XTB=-2.8408e+000 XTI=3.00824e+000 KF=1.5522e-017
.MODEL DR D IS=8.0000e-016 KF=3.2166e-019 RS=0 XTI=0
.ENDS LT1368
