.SUBCKT LT1394     1    2    3    4    5    6    7    8
XCOMP  2 3 7 8 1 4 6 5 LT1394_MD
** nested subcircuit: LT1394_MD
.SUBCKT LT1394_MD  1 2 101 102 200 300 400 600
*
* input stage
CIN_D 2 1 5.0000e-012
CIN_CM1 1 0 3.5000e-012
CIN_CM2 2 0 3.5000e-012
RIN 2 1 1.0000e+005
ROFF1 301 0 1.0010e+000 TC=4.0000e-006
ROFF2 302 0 1.0000e+000
IOFF1 0 301 DC 1
IOFF2 0 302 DC 1
EOFF 1 3 POLY(3) 301 302 1 0 2 0 0 1.0 5.0000e-006 5.0000e-006
ROFF 3 1 1.0000e+009
IBP 303 0 DC 2.1222e-006
RBP 303 0 1E6 TC=1.7583e-002
GBP 1 0 303 0 1e-6
IBN 304 0 DC 2.0113e-006
RBN 304 0 1E6 TC=1.5750e-002
GBN 2 0 304 0 1e-6
*
* delay stage
G1 0 20 3 2 1.6000e+000
R1 20 0 1.0000e+003
D1P 20 21 DX
D1N 22 20 DX
V1P 21 0 DC 1.2330e+001
V1N 22 0 DC -1.2330e+001
G2 0 23 20 0 1.0000e-003
R2 23 0 1.0000e+003
CD 23 0 4.2135e-013
*
* slewrate stage
G3 0 24 23 0 1.0000e-003
R3 24 0 1.0000e+003
D3P 24 25 D3P
D3N 26 24 D3N
V3P 25 0 DC 1.1330e+001
V3N 26 0 DC -1.1330e+001
G41 0 30 24 0 1.0000e-003
R41 30 0 1.0000e+003
CR 30 0 9.8718e-012
D4P 30 32 DX
D4N 33 30 DX
E4P 32 0 POLY(1) 200 400 -1.6266e+000 5.0000e-001
E4N 0 33 POLY(1) 200 400 -1.6266e+000 5.0000e-001
*
* phase shifter
G5 0 40 30 0 1.0000e-003
R5 40 0 1.0000e+003
LA 40 41 3.1831e-008
CA 41 0 1.9894e-013
*
* latch stage
RTTL1 600 200 1.0000e+012
DTTL 601 600 DX
RTTL2 601 602 7.1230e+005
VTTL 603 602 DC 0
ETTL 200 603 200 0 0.35
FLATCH 0 623 POLY(1) VTTL 100E-3 -5.0000e+004
RLATCH1 623 0 1.0000e+003
VL1P 646 0 DC 20
DL1P 623 646 DLATCH
VL1N 0 647 DC 20
DL1N 647 623 DLATCH
EINV 0 648 623 0 1
ELATCH 645 0 41 0 1
CHOLD 649 0 1.0000e-007
RHOLD 642 0 1.0000e+012
RLATCH2 645 0 1.0000e+012
RLATCH3 648 0 1.0000e+012
M1 645 623 642 646 SPMOS L=100U W=100U
M2 642 648 645 647 SNMOS L=100U W=100U
M3 645 623 649 646 SPMOS L=100U W=100U
M4 649 648 645 647 SNMOS L=100U W=100U
M5 649 648 642 646 SPMOS L=100U W=100U
M6 642 623 649 647 SNMOS L=100U W=100U
*
* output stage
GO11 401 42 642 0 3.8414e-002
RO11 42 401 2.6032e+001
DO1 43 42 DOUT
GO12 401 43 642 0 3.0298e-002
RO12 43 401 3.3006e+001
VOUT1 101 43 DC -7.723019e-001
ROUT1 101 0 1.0000e+009
GO21 401 46 642 0 -3.8414e-002
RO21 46 401 2.6032e+001
DO2 47 46 DOUT
GO22 401 47 642 0 -3.0298e-002
RO22 47 401 3.3006e+001
VOUT2 102 47 DC -7.7230e-001
ROUT2 102 0 1.0000e+009
*
* supply characteristic
EGND 401 0 200 400 5.0000e-001
RGND 400 0 1.0000e+009
IVDD 200 400 DC 6.0000e-003
IVSS 400 300 DC 1.2000e-003
FA1 51 0 VOUT1 -1
FA2 51 0 VOUT2 -1
DAP 200 51 DPC
RGV 52 53 9.7531
EGV 51 52 POLY(1) 200 400 -0.8 1.0
DAN 53 400 DPC
*
.MODEL DX D (IS=1e-12 RS=0 XTI=0)
.MODEL DPC D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL D3P D (IS=1e-12 TT=4.2328e-008 CJO=0.3E-12 RS=0 XTI=0)
.MODEL D3N D (IS=1e-12 TT=4.9518e-008 CJO=0.3E-12 RS=0 XTI=0)
.MODEL DLATCH D (IS=1e-12 TT=1.2026e-008 CJO=0.3E-12 RS=0 XTI=0)
.MODEL SPMOS PMOS (LEVEL=1 VTO=-3 KP=10)
.MODEL SNMOS NMOS (LEVEL=1 VTO=3 KP=10)
.MODEL DOUT D (IS=8.0e-7 RS=0 XTI=0.0 N=0.1 EG=0.1)
.ENDS LT1394_MD
** end nested subcircuit: LT1394_MD
.ENDS LT1394
