.SUBCKT LT1395 1 2 3 4 5
*
* input stage
RINP 1 99 1.0000e+009
CINP 1 99 2.0000e-012
IBP 301 303 DC 1.6364e-005
RBP 301 303 TCRBP 1E5
VBP 303 0 DC 6.3636e-001
GBP 1 99 POLY(2) 301 0 1 0 0 1.0E-5 1.0000e-006
IBN 302 304 DC 1.3818e-005
RBN 302 304 TCRBN 1E5
VBN 304 0 DC 3.8182e-001
GBN 2 99 POLY(2) 302 0 2 0 0 1.0E-5 1.0000e-005
.MODEL TCRBP RES (TC1=-2.7778e-003)
.MODEL TCRBN RES (TC1=1.9737e-003)
RINN 2 99 1.0000e+009
CINN 2 99 1.0000e-012
GA1 99 11 1 99 2.0000e-002
GA2 11 99 11 99 2.0000e-002
VSENS 11 16 DC 0.0
LINN 16 2 2.5000e-009
IOFF 501 0 DC 1.0000e-003
ROFF 501 0 ROVD 1
.MODEL ROVD RES (TC1=1.5000e-002)
GOFF 59 99 501 0 2.0000e-002
FA 99 59 VSENS 1.0
*
* noise sources
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI1
DR2 102 0 DRI1
GR1 99 1 101 102 2.1735e-001
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI2
DR4 104 0 DRI2
GR2 99 2 103 104 9.6600e-001
IR5 0 601 DC 1
IR6 0 602 DC 1
DR5 601 0 DRI3
DR6 602 0 DRI3
GR3 59 99 601 602 4.3470e+000
*
* common mode rejection
GCM1 99 11 POLY(2) 2 0 1 0 0 7.0790e-006 7.0790e-006
*
* frequency shaper
RP0 59 99 1.0000e+003
CP0 59 99 2.7312e-013
GP0 99 60 59 99 1.0000e-003
RR1 660 60 1.0000e-003
*
* slew rate limiter
RSR 660 66 1.0000e-001
ESRP 96 0 660 66 6.2271e+003
ESRN 97 0 660 66 6.2268e+003
DSRP 96 95 DX
DSRN 95 97 DX
VSR 95 0 DC 0
FSR 660 99 VSR 1.0000e-002
*
* transimpedance stage and dominant pole
RTR 66 99 1.2500e+005
C1 66 99 1.4514e-012
DC 66 53 DVC
DE 54 66 DVC
VC 3 53 DC 8.7400e-001
VE 54 4 DC 8.7400e-001
*
* output stage
GB 99 7 66 99 4.0161e-002
ROUT 7 99 2.4900e+001
FB 7 99 VSCL 1.6611e-003
VSCL 90 0 DC 0
DLP 91 90 DX
DLN 90 92 DX
ESCLP 91 0 7 5 1.2195e+002
ESCLN 92 0 7 5 1.2195e+002
R01S 7 5 1.0000e-001
R0P 5 0 5.9379e+008
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
IP 3 4 DC 4.6000e-003
RP 3 4 1.0000e+006
GV 31 0 7 5 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-1.3 N=0.1 EG=0.1)
.MODEL DRI1 D (IS= 8.2592e-016 KF= 3.2074e-016 RS=0 XTI=0)
.MODEL DRI2 D (IS= 8.2592e-016 KF= 2.5659e-016 RS=0 XTI=0)
.MODEL DRI3 D (IS= 8.2592e-016 KF= 4.8111e-017 RS=0 XTI=0)
.ENDS LT1395
