.SUBCKT LT1464     1 2 3 4 5
GRP1 1 111 1 111 1.0000e-002
GRP2 2 112 2 112 1.0000e-002
DIP1 114 111 DX
DIP2 115 112 DX
DIP3 116 114 DX
DIP4 116 115 DX
VCM 116 4 DC 2.9250e+000
RCMP 114 117 1.0000e+004
ECMP 117 4 111 4 1.0
RCMN 115 118 1.0000e+004
ECMN 118 4 112 4 1.0
CIN 111 112 1.4723e-012
GRIN 111 112 111 112 1.0000e-012
M1 11 112 10 10 M1 L=100U W=100U
M2 12 113 10 10 M2 L=100U W=100U
RD1 4 11 1.0807e+003 TC=3.9038e-005
RD2 4 12 1.0807e+003 TC=-3.9038e-005
DI1 113 3 DI1
DI2 112 3 DI2
C1 11 12 2.9455e-011
IEE 3 10 DC 1.8507e-003
GSR 3 10 12 11 2.7270e-004
GA 60 99 11 12 9.2536e-004
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI
DR2 102 0 DRI
GRI1 99 1 101 102 5.2223e-006
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI
DR4 104 0 DRI
GRI2 99 2 103 104 5.2223e-006
RRu 605 0 2.8876e-001
VRu 605 0 DC 0
FRu 99 60 VRu 1
GCM1 99 20 POLY(2) 111 99 112 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 3.1831e-002
ECM 113 111 20 99 5.6234e-005
RP1 601 99 9.0000e+004
CP1 60 601 1.7684e-012
RP11 60 99 1.0000e+004
GP1 99 6 60 99 1.0000e-004
R2 6 99 1.0000e+003
C2 6 7 1.5664e-009
GB 7 99 6 99 2.8936e+003
R01 7 99 3.0801e+001
R02 7 50 1.0000e-001
R03 50 5 3.9099e+001
R04 5 99 1.0000e+012
VC 53 50 DC 2.4000e+000
VE 54 50 DC -2.4000e+000
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 3.3333e+002
ECLN 92 0 7 50 3.3333e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 1.0595e+002
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC -1.7057e-003
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 10.0
EGV 31 32 POLY(1) 3 4 -0.85 1.0
.MODEL DX D IS=8.0000e-016 RS=0 XTI=0
.MODEL M1 PMOS LEVEL=3 KP=5.4033e-002 VTO=-9.996929e-001 KF=9.6721e-028
.MODEL M2 PMOS LEVEL=3 KP=5.4033e-002 VTO=-1.000307e+000 KF=9.6721e-028
.MODEL DI1  D IS=1.1256e-012 EG=7.9282e-001 XTI=3.0000e+000
.MODEL DI2  D IS=5.0816e-013 EG=8.7304e-001 XTI=3.0000e+000
.MODEL DRI D IS=8.0000e-016 KF=2.5720e-024 RS=0 XTI=0
.ENDS LT1464
