.SUBCKT LT1467     3 2 7 4 6
X_LT1467 3 2 7 4 6 LT1466
** nested subcircuit: LT1466
.SUBCKT LT1466     1 2 3 4 5
GRP1 1 111 1 111 1.0000e+000
GRP2 2 112 2 112 1.0000e+000
DIP1 114 111 DX
DIP2 114 112 DX
VCM 114 4 DC 4.9000e-001
CIN 111 112 1.0000e-011
GRIN 111 112 111 112 1.2591e-008
Q1 11 112 13 Q1
Q2 12 113 14 Q2
RC1 303 11 3.8678e+003
RC2 303 12 3.8678e+003
RE1 10 13 2.5000e-001
RE2 10 14 2.5000e-001
C1 11 12 1.0287e-010
IEE 10 304 DC 5.1721e-005
D1 304 10 DX
VCMEP 303 3 DC 1.4
VCMEN 4 304 DC 0.6
GA 60 99 11 12 2.5854e-004
FRI1 99 1 VRI1 1
VRI1 101 0 DC 0
RRI1 101 0 2.8670e+007
FRI2 99 2 VRI2 1
VRI2 201 0 DC 0
RRI2 201 0 2.8670e+007
GR 99 60 605 606 2.1735e+000
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
GCM1 99 20 POLY(2) 111 99 112 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 1.5915e-001
ECM 113 111 20 99 1.5849e-005
RR1 6 60 1.0000e-003
R2 6 99 1.0000e+003
C2 6 7 1.1436e-009
GB 7 99 6 99 7.9542e+003
R01 7 99 2.2065e+002
R02 7 50 1.4078e+003
R03 50 51 1.5344e+002
R04 51 5 1.8091e+001
R05 5 99 1.0000e+012
DOP 50 51 DOUT
DON 51 50 DOUT
VC 53 50 DC 1.0180e+000
VE 54 50 DC -1.0240e+000
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 4.1784e-002
ECLN 92 0 7 50 4.1784e-002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 8.1375e+000
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 8.2791e-006
GV 31 0 7 50 7.1032e-004
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 10.0
EGV 31 32 POLY(1) 3 4 -0.85 1.0
.MODEL DX D IS=8.0000e-016 RS=0 XTI=0
.MODEL Q1 NPN IS=9.9798e-016 BF=3965.4 XTB=-7.8461e+000 XTI=2.99073e+000 KF=5.0000e-018
.MODEL Q2 NPN IS=1.0020e-015 BF=4317.8 XTB=-5.9859e+000 XTI=3.00927e+000 KF=5.0000e-018
.MODEL DR D IS=8.0000e-016 KF=3.2074e-018 RS=0 XTI=0
.MODEL DOUT D IS=5.4503e-007 RS=0 XTI=0
.ENDS LT1466
** end nested subcircuit: LT1466
.ENDS LT1467
